US03962320
To a suspension of 28.5 g (1.17 g. atoms) magnesium turnings in 150 ml tetrahydrofuran under a nitrogen atmosphere there is added 10 ml of 4-bromotoluene (1.17 mole) in 650 ml dry tetrahydrofuran, the reaction is started and the remainder of the bromotoluene solution is added dropwise at a rate that maintains a moderate reflux. After the addition is complete, the mixture is refluxed for an additional 1 1/2 hours. The resulting Grignard solution is added dropwise to a cold solution of 128.0 g pivaloyl chloride (1.06 mole) in 500 ml dry tetrahydrofuran at a rate that maintains the temperature at 0° to -5°C. The solution is stirred for an additional 11/2 hours at 0° and then at room temperature for 18 hours. The mixture is then cooled to 0° and hydrolyzed by the addition of 100 ml 2N hydrochloric acid. The layers are separated and 200 ml of ether is added to the organic phases which is then washed respectively with 100 ml 2N hydrochloric acid, 100 ml. 10% sodium bicarbonate solution and 100 ml. saturated sodium chloride. The resulting layer is dried over anhydrous sodium sulfate, filtered, and the solvent is removed in vacuo to give p-pivaloyl toluene (b.p 80°-84°C/0.7 mm,nD21 1.5108). A mixture of 156.3 g. (0.886 mole) of the resulting p-pivaloyl toluene is then added to 157.8 g. (0.886) mole) N-bromosuccinimide, 4.0 g (0.016 mole) benzoyl peroxide and 150 ml. carbon tetrachloride and heated at reflux for 18 hours. The mixture is cooled and filtered and the resulting precipitate is washed with carbon tetrachloride. The solvents are removed in vacuo and the resulting oil is distilled in vacuo to give α-bromo-p-pivaloyl toluene (b.p. 124°- 132°/ 0.7 mm, nD22 1.5546- V.P.C.96% monobromo 4%-dibromo).

reactant | magnesium | 28.5 g | [Mg] | Mg
reactant | 4-bromotoluene | 1.17 mole, 10 ml | BrC1=CC=C(C=C1)C | C7H7Br
reactant | bromotoluene | BrC1=C(C=CC=C1)C | C7H7Br
reactant | pivaloyl chloride | 1.06 mole, 128.0 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 650 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | p-pivaloyl toluene | C(C(C)(C)C)(=O)C1=CC=C(C=C1)C | C12H16O
